US08445509B2
Production of 6-(4-fluorophenyl)-5-methylpyridine-2-carbonitrile
To a solution of 2-(4-fluorophenyl)-3-methylpyridine 1-oxide (24 g, 0.118 mol) in tetrahydrofuran (200 mL) were added trimethylsilyl cyanide (19.2 mL, 0.153 mol) and dimethylcarbamoyl chloride (14.1 mL, 0.153 mmol), and the mixture was heated under reflux for 2 hr. Ethyl acetate and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained residue was washed with diethyl ether and collected by filtration to give the title compound (16.7 g, 67%) as a white solid. Under reduced pressure, the filtrate was concentrated, and the obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/9) to give the title compound (3.0 g, 12%) as a white solid.

reactant | 2-(4-fluorophenyl)-3-methylpyridine 1-oxide | 0.118 mol, 24 g | FC1=CC=C(C=C1)C1=[N+](C=CC=C1C)[O-] | C12H10FNO
reactant | trimethylsilyl cyanide | 0.153 mol, 19.2 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
catalyst | dimethylcarbamoyl chloride | 0.153 mmol, 14.1 mL | CN(C(=O)Cl)C | C3H6ClNO
product | 6-(4-fluorophenyl)-5-methylpyridine-2-carbonitrile | 16.7 g, 67% | FC1=CC=C(C=C1)C1=C(C=CC(=N1)C#N)C | C13H9FN2
